US04053599
A mixture of 2-chloroacetyl-1-(4-chloro-2-fluorobenzyl)pyrrole, N-phenylpiperazine and triethylamine in methanol is treated by the procedure described in Example 1b to produce 1-(4-chloro-2-fluorobenzyl)-2-[α-(4-phenylpiperazino)acetyl]pyrrole.

reactant | 2-chloroacetyl-1-(4-chloro-2-fluorobenzyl)pyrrole | ClCC(=O)C=1N(C=CC1)CC1=C(C=C(C=C1)Cl)F | C13H10Cl2FNO
reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 1-(4-chloro-2-fluorobenzyl)-2-[α-(4-phenylpiperazino)acetyl]pyrrole | ClC1=CC(=C(CN2C(=CC=C2)C(CN2CCN(CC2)C2=CC=CC=C2)=O)C=C1)F | C23H23ClFN3O
